US09403816B2
(1-Methyl-1H-1,2,3-triazol-5-yl)(1-methyl-1H-imidazol-5-yl)methanol
A solution of 1-methyl-1H-1,2,3-triazole (1.47 g, 17.7 mmol, PCT Int. Appl. 2008098104) in 20 mL THF was cooled to −40° C. in a dry-ice/acetonitrile bath. n-Butyllithium (1.6 M in hexane, 10.2 mL, 16.3 mmol) was added dropwise via syringe and the mixture was stirred at −40° C. for 30 minutes. A solution of 1-methyl-1H-imidazole-5-carbaldehyde (1.50 g, 13.6 mmol) in 10 mL THF was then added and the mixture was stirred for 5 minutes, then was transferred to an ice/water bath. After 1 hour, the mixture was quenched by addition of saturated aqueous NH4Cl, diluted with water, and extracted twice with EtOAc. The aqueous phase, which contained the title compound, was then concentrated. The residue was purified by flash column chromatography (silica gel, gradient 3-10% MeOH-DCM) to afford the title compound as a light yellow foam.

reactant | 1-methyl-1H-1,2,3-triazole | 17.7 mmol, 1.47 g | CN1N=NC=C1 | C3H5N3
reactant | n-Butyllithium | 16.3 mmol, 1.6 M, 10.2 mL | C(CCC)[Li]
reactant | 1-methyl-1H-imidazole-5-carbaldehyde | 13.6 mmol, 1.50 g | CN1C=NC=C1C=O | C5H6N2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1-Methyl-1H-1,2,3-triazol-5-yl)(1-methyl-1H-imidazol-5-yl)methanol | CN1N=NC=C1C(O)C1=CN=CN1C | C8H11N5O
